US07582627B2
(a) 7,8-Difluoro-3-methyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylic acid methyl ester
A solution of 2.1 g (9.1 mmol) of 7,8-difluoro-3-methyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylic acid Example 31) in 50 mL of methanol is cooled to 0° C. and saturated with hydrogen chloride gas. The reaction is stirred at room temperature for 18 hours, recooled to 0° C. and resaturated with hydrogen chloride gas. After stirring an additional 24 hours at room temperature, the solvent is removed in vacuo and the residue is partitioned between dichloromethane/5% aqueous sodium bicarbonate (200:100 mL). The organic layer is separated, washed with 5% aqueous sodium bicarbonate, water, dried (MgSO4), filtered, and concentrated in vacuo affording 1.9 g of the title compound. 1H NMR (400 MHz, CDCl3): 7.27 (bs, 1H), 7.24 (m, 1M), 4.26 (m, 1H), 3.82 (s, 3H), 3.75 (m, 1H), 3.62 (m, 1H), 1.22 (d, 3H).

reactant | 7,8-difluoro-3-methyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylic acid | 9.1 mmol, 2.1 g | FC=1C(=C2C(NC(CO2)C)=C(C1)C(=O)O)F | C10H9F2NO3
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 50 mL | CO | CH4O
product | 7,8-Difluoro-3-methyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylic acid methyl ester | 1.9 g | COC(=O)C=1C=C(C(=C2C1NC(CO2)C)F)F | C11H11F2NO3
